US07767675B2
Step 1. 5-(1H-pyrazol-1-yl)pyrimidin-2-amine
A suspension of 1H-pyrazole (0.42 g, 0.0061 mol), 5-bromopyrimidin-2-amine (1.3 g, 7.3 mmol), copper(I) iodide (58.2 mg, 0.306 mmol), N,N′-dimethylcyclohexane-1,2-diamine (0.193 mL, 1.22 mmol), potassium carbonate (1.77 g, 12.8 mmol) in N,N-dimethylformamide (5.00 mL) was irradiated under microwave at 180° C. for 1 h. After cooling, the mixture was purified by chromatography on silica gel with methanol in methylene chloride (0-10%) to afford the desired product. LCMS: (M+H)=162.1.

reactant | 1H-pyrazole | 0.0061 mol, 0.42 g | N1N=CC=C1 | C3H4N2
reactant | 5-bromopyrimidin-2-amine | 7.3 mmol, 1.3 g | BrC=1C=NC(=NC1)N | C4H4BrN3
reactant | N,N′-dimethylcyclohexane-1,2-diamine | 1.22 mmol, 0.193 mL | CNC1C(CCCC1)NC | C8H18N2
reactant | potassium carbonate | 12.8 mmol, 1.77 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5.00 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.306 mmol, 58.2 mg | [Cu]I
product | 5-(1H-pyrazol-1-yl)pyrimidin-2-amine | N1(N=CC=C1)C=1C=NC(=NC1)N | C7H7N5
